US06376685B1
To a solution of N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol 65.42 g(Net.63.38 g)dissolved in ethyl acetate 320 ml were added isopropyleter 320 ml, and then methane sulfonylchloride 28.3 g under ice-cooling, and triethylamine 25.0 g, successively, and the solution was stirred for 1 hr. N-heptane was added to the reaction solution and the solution was stirred for further 1 hr to deposit crystals, which were filtered and dried in vacuum to obtain the crude N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-methane sulfonyloxybutane 89.3 g (Net.55.7 g). The crude crystals. A ratio of main components in the crude crystals, which contain triethylamine hydrochloride, is the diol derivative compound:the 2-sulfonate derivative:the 1-sulfonate derivtive(the object product):the 1,2-disulfonate compound=1.3:0.1:95.4:3.2. A part of the crude crystal was dissolved in ethyl acetate, washed with water, and purified by recrystallization from ethyl acetate and isopropylether. The purified recrystals were used for anlysyses.

reactant | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-butanol | 65.42 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](CO)O)CC1=CC=CC=C1 | C15H23NO4
reactant | methane sulfonylchloride | 28.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 25.0 g | C(C)N(CC)CC | C6H15N
reactant | N-heptane | CCCCCCC | C7H16
solvent | ethyl acetate | 320 ml | C(C)(=O)OCC | C4H8O2
product | N-tert-butoxycarbonyl-3(S)-amino-2(R)-hydroxy-4-phenyl-1-methane sulfonyloxybutane | 89.3 g | C(C)(C)(C)OC(=O)N[C@H]([C@H](COS(=O)(=O)C)O)CC1=CC=CC=C1 | C16H25NO6S
